US06949542B2
4-(3-Pyridin-3-yl-phenyl)-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from 1,2-phenylenediamine (81 mg, 0.75 mmol) and 3-oxo-3-(3-pyridin-3-yl-phenyl)-propionic acid tert-butyl ester (Example K1) (223 mg, 0.75 mmol) by refluxing in xylene according to the general procedure M. Obtained as a white solid (204 mg).

reactant | 1,2-phenylenediamine | 0.75 mmol, 81 mg | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | 3-oxo-3-(3-pyridin-3-yl-phenyl)-propionic acid tert-butyl ester | 0.75 mmol, 223 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C=1C=NC=CC1)=O)=O | C18H19NO3
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 4-(3-Pyridin-3-yl-phenyl)-1,3-dihydro-benzo[b][1,4]diazepin-2-one | N1=CC(=CC=C1)C=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=CC=C2 | C20H15N3O
